US09315502B2
Intermediate F: 6-Bromo-3-(4-chloro-phenyl)-imidazo[1,2-a]pyridine
The title compound, light yellow solid (0.28 g, 42%), MS (ISP) m/z=307.3 [(M+H)+], mp 157° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available 4-chloro-phenylboronic acid (0.34 g, 2.17 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 4-chloro-phenylboronic acid | 2.17 mmol, 0.34 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 6-Bromo-3-(4-chloro-phenyl)-imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=C(C=C2)Cl | C13H8BrClN2
